US05424329
3-Ethoxy-5-methoxy-1-phenyl-1H-indole-2-carboxamide
A mixture of 3-ethoxy-5-methoxy-1-phenyl-1H-indole-2-carboxylic acid (0.11 g, 0.35 mmol; Unangst PC, et al., J. Med. Chem. 1989;32:1360) and 1,1'-carbonyldiimidazole (0.065 g, 0.40 mmol) in 5.0 mL of tetrahydrofuran is stirred at reflux for 90 minutes. The mixture is cooled slightly and 5.0 mL of concentrated ammonium hydroxide is added. After stirring for an additional 90 minutes, the mixture is partitioned between ethyl acetate and brine. The organic layer is washed several times with fresh brine, dried (anhydrous sodium sulfate) and evaporated. Recrystallization of the residue from ethyl acetate-hexane yields 0.082 g (75%) of product; mp 143°-144° C.

reactant | 3-ethoxy-5-methoxy-1-phenyl-1H-indole-2-carboxylic acid | 0.35 mmol, 0.11 g | C(C)OC1=C(N(C2=CC=C(C=C12)OC)C1=CC=CC=C1)C(=O)O | C18H17NO4
reactant | 1,1'-carbonyldiimidazole | 0.40 mmol, 0.065 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 5.0 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | 3-Ethoxy-5-methoxy-1-phenyl-1H-indole-2-carboxamide | 0.082 g, 75% | C(C)OC1=C(N(C2=CC=C(C=C12)OC)C1=CC=CC=C1)C(=O)N | C18H18N2O3
